* C:\Users\ryanm\OneDrive - Queen's University Belfast\Misc\projects\small_12V_car_inverter\LTspice circuits\mosfet driver 50Hz oscillation inductors.asc
XU1 NC_01 NC_02 N003 0 N006 N005 0 VCC Output1 Output2 VCC VCC Vref Vref NC_03 NC_04 TL494
V§supply VCC 0 12
R1 N005 0 9091
V2 N003 0 2.0
R2 Output1 0 1Meg
C1 N006 0 2.2µ
M1 N001 Output1 0 0 IRFH5250
R4 0 Output2 1Meg
M2 N004 Output2 0 0 IRFH5250
R6 VCC N002 0.1
C2 VCC 0 0.1µ
L1 N001 N002 50
L2 N002 N004 50
L3 0 L 40000
R3 L 0 1k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ryanm\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.25 0 0.001 startup
k1 L1 L2 L3 1
.lib TL494.sub
.backanno
.end
